US05488171
A mixture of octan-2-one (3.76 g, 0.29M) and hypophosphorus acid (91.5%, 2.09 g, 0.029M) is heated at 100° C. for 12 hours in the presence of Dowex 50W x 2 ion exchange resin (1 ml, aqueous slurry). The mixture is cooled to room temperature, methanol (50 ml) is added and the Dowex is removed by filtration. The filtrate is evaporated to an oily residue, which is dissolved in ethyl acetate, washed with water, brine, then dried (MgSO4). Removal of the solvent gives 1-hydroxy-1-methylheptylphosphonous acid.

reactant | octan-2-one | 0.29M, 3.76 g | CC(CCCCCC)=O | C8H16O
reactant | hypophosphorus acid | 0.029M, 2.09 g | OP=O | HO2P
solvent | methanol | 50 ml | CO | CH4O
product | 1-hydroxy-1-methylheptylphosphonous acid | OC(CCCCCC)(C)P(O)O | C8H19O3P
